US08071602B2
Step 1: 2-(4-Chlorophenoxy)ethyl 4-methylbenzenesulfonate (J)
To a solution of 2-(4-chlorophenoxy)ethanol (2.0 g, 11.6 mmol) in DCM (10 mL) was added Et3N (5 mL) and 4-methylbenzene-1-sulfonyl chloride (TsCl; 2.43 g, 12.8 mmol) sequentially. The reaction mixture was stirred at room temperature overnight and partitioned between water and ethyl acetate. The organic layer was washed with water, 5% sodium bicarbonate (NaHCO3), and brine and concentrated. The resulting residue was washed with hexane to afford the title compound quantitatively.

reactant | 2-(4-chlorophenoxy)ethanol | 11.6 mmol, 2.0 g | ClC1=CC=C(OCCO)C=C1 | C8H9ClO2
reactant | Et3N | 5 mL | CCN(CC)CC | C6H15N
reactant | 4-methylbenzene-1-sulfonyl chloride | 12.8 mmol, 2.43 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Chlorophenoxy)ethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCOC1=CC=C(C=C1)Cl | C15H15ClO4S
